US04703054
(1) 1-[2-(Benzyloxycarbonylamino)propanoyl]-2,2-dimethyl-4-imidazolidinone
To a stirred, ice-cold solution of N-(benzyloxycarbonyl)alanine (6.7 g) and 2,2-dimethyl-4-imidazolidinone (3.42 g) in 100 ml of THF, a solution of DCC (6.2 g) in 50 ml of THF was added dropwise during 15 minutes. The suspension was stirred at 0° C. for 2 hours and at room temperature for an additional 2 hours. The insoluble material was filtered off. The solvent was evaporated under reduced pressure. Crystallization of the residue from isopropanol gave the title product as a white powder m.p. 170°-171° C.

reactant | N-(benzyloxycarbonyl)alanine | 6.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | 2,2-dimethyl-4-imidazolidinone | 3.42 g | CC1(NCC(N1)=O)C | C5H10N2O
reactant | DCC | 6.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-[2-(Benzyloxycarbonylamino)propanoyl]-2,2-dimethyl-4-imidazolidinone | C(C1=CC=CC=C1)OC(=O)NC(C(=O)N1C(NC(C1)=O)(C)C)C | C16H21N3O4
